US04921867
4-Amino-3,5-dichloro-α-[[[6-[3-[3-(2-hydroxyethoxy)-2-pyridinyl]propoxy]hexyl]amino]methyl]benzenemethanol (E) butenedioate (2:1) (salt)
Methyl [[2-[3-[[6-[[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]propyl]-3-pyridinyl]oxy]acetate (400 mg) in ether (10 ml) was added dropwise to a stirred solution of lithium aluminum hydride (28 mg) in ether (5 ml) at 0° C. The mixture was stirred overnight at room temperature under nitrogen, water (0.5 ml) was added, followed by 2N sodium hydroxide (1.5 ml) and water (0.5 ml). The suspension was filtered through hyflo and washed with ethyl acetate (2×50 ml). Concentration of the filtrate gave an oil which was purified by FCC eluting with System A (95:5:1). The resulting oil (100 mg) was dissolved in methanol (2 ml) and treated with fumaric acid (12 mg). Concentration in vacuo gave an oil which was triturated several times under ether (3×10 ml) to give the title compound as a yellow solid (100 mg), m.p. 77°-80°.

reactant | Methyl [[2-[3-[[6-[[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]propyl]-3-pyridinyl]oxy]acetate | 400 mg | NC1=C(C=C(C=C1Cl)C(CNCCCCCCOCCCC1=NC=CC=C1OCC(=O)OC)O)Cl | C25H35Cl2N3O5
reactant | lithium aluminum hydride | 28 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.5 ml | O | H2O
reactant | sodium hydroxide | 2N, 1.5 ml | [OH-].[Na+]
reactant | water | 0.5 ml | O | H2O
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | ether | 5 ml | CCOCC | C4H10O
product | 4-Amino-3,5-dichloro-α-[[[6-[3-[3-(2-hydroxyethoxy)-2-pyridinyl]propoxy]hexyl]amino]methyl]benzenemethanol (E) butenedioate | 100 mg | C(\C=C\C(=O)O)(=O)O.NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCCC1=NC=CC=C1OCCO)Cl | InChI=1S/C24H35Cl2N3O4.C4H4O4/c25-19-15-18(16-20(26)24(19)27)22(31)17-28-9-3-1-2-4-12-32-13-6-7-21-23(33-14-11-30)8-5-10-29-21;5-3(6)1-2-4(7)8/h5,8,10,15-16,22,28,30-31H,1-4,6-7,9,11-14,17,27H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
